US07786304B2
In a clean 500 ml R. B. flask charged pyrazine-2,3-dicaroxylic acid (50 gms) and acetic anhydride (162 gms). The reaction mass was heated to 110-120° C. till the completion of reaction to get pyrazine-2,3-dicarboxylic acid anhydride. After completion of the reaction, excess acetic anhydride was distilled out under vacuum and furthermore charged with methylene dichloride (315 ml) and 2-amino-5-chloropyridine (40 gms) in a lot wise manner at room temperature for 30 min. Further, the reaction mixture was stirred for 2 hours at room temperature. The reaction mass was cooled to 5 to 10° C. for one hour, the product was filtered and washed with chilled methylene dichloride. The solid was charged with methylene dichloride (235 ml), triethylamine (40.9 ml) at a temp. of 0-5° C. followed by ethyl chloroformate (28.1 ml). The reaction mass was stirred at 0-5° C. for 1 hr, water (200 ml) was added to the reaction mixture and the mass stirred at room temperature for 1 hr to obtain the solids. The title compound thus separated was isolated by filtration.

reactant | pyrazine-2,3-dicaroxylic acid | 50 gms | N1=C(C(=NC=C1)C(=O)O)C(=O)O | C6H4N2O4
reactant | acetic anhydride | 162 gms | C(C)(=O)OC(C)=O | C4H6O3
product | pyrazine-2,3-dicarboxylic acid anhydride | N1=C2C(=NC=C1)C(=O)OC2=O | C6H2N2O3
